US07435751B2
Step 1: 1-Cyclopropylmethyl-7-fluoro-5-nitro-1,3-dihydro-indol-2-one
Crude (2,3-difluoro-5-nitrophenyl) acetic acid (2.50 g, 11.5 mmol) and (aminomethyl)cyclopropane (6 eq., 5.98 ml, 0.0691 mol) are mixed in DMSO (10 ml) and stirred at 45° C. for 20 hours. 2N Hydrochloric acid (40 ml) is added in one portion and the mixture stirred at room temperature for 2 hours. The resulting light yellow precipitate is filtered, washed with water and ether, and dried under vacuum to give the title compound as a yellow solid. HPLC r.t. 4.91 min; MS for C12H11FN2O3 m/z 251.2 (M+H)+.

reactant | (2,3-difluoro-5-nitrophenyl) acetic acid | 11.5 mmol, 2.50 g | FC1=C(C=C(C=C1F)[N+](=O)[O-])CC(=O)O | C8H5F2NO4
reactant | (aminomethyl)cyclopropane | 0.0691 mol, 5.98 ml, 6 eq. | NCC1CC1 | C4H9N
reactant | Hydrochloric acid | 2N, 40 ml | Cl | ClH
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 1-Cyclopropylmethyl-7-fluoro-5-nitro-1,3-dihydro-indol-2-one | C1(CC1)CN1C(CC2=CC(=CC(=C12)F)[N+](=O)[O-])=O | C12H11FN2O3
